US06057369
1-[1-(3,4-Dimethoxyphenylsulfonyl)-5-phenylpentyl]cyclopentane carboxylic acid (0.69 g, 1.5 mmol) is dissolved in CH2Cl2 (6 mL), cooled to 0° C. and 2 M oxalyl chloride in CH2Cl2 (2.2 mL, 4.4 mmol) is added. The reaction is warmed and stirred at room temperature 2 hours. The solvent is removed in vacuo and the residue azeotroped with chloroform (2×10 mL). The residue is dissolved in CH2Cl2 (2 mL) and cooled to 0° C. Trimethylsilylhydroxylamine (0.52 mL, 4.5 mmol) is added over 1 minute and this mixture is stirred 5 minutes. Then the ice bath is removed and the reaction stirred at room temperature overnight. The solvent is removed in vacuo and CH2Cl2 (20 mL) added and the solution washed with 1 N HCl (20 mL). The solution is dried over MgSO4 and the solvent removed in vacuo to give 1-[1-(3,4-Dimethoxyphenylsulfonyl)-5-phenylpentyl]cyclopentanecarboxylic acid hydroxyamide (0.48 g, 67%): 1H NMR (300 MHz, CD3OD) δ 7.44 (dd, J=8.3, 2.0 Hz, 1H), 7.36 (d, J=2.3 Hz, 1H), 7.22-7.05 (m, 4H), 6.98 (d, J=7.0 Hz, 2H), 3.89 (s, 3H), 3.87 (m, 4H), 2.38 (t, J=7.4 Hz, 2H), 2.35-2.25 (m, 1H), 1.96-1.63 (m, 10H), 1.34-1.27 (m, 2H), 1.21-1.10 (m, 1H), 1.00-0.88 (m, 1H); MS (EI) m/e 476 (M+).

reactant | 1-[1-(3,4-Dimethoxyphenylsulfonyl)-5-phenylpentyl]cyclopentane carboxylic acid | 1.5 mmol, 0.69 g | COC=1C=C(C=CC1OC)S(=O)(=O)C(CCCCC1=CC=CC=C1)C1(CCCC1)C(=O)O | C25H32O6S
reactant | oxalyl chloride | 2 M | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Trimethylsilylhydroxylamine | 4.5 mmol, 0.52 mL | C[Si](C)(C)NO | C3H11NOSi
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4.4 mmol, 2.2 mL | C(Cl)Cl | CH2Cl2
product | 1-[1-(3,4-Dimethoxyphenylsulfonyl)-5-phenylpentyl]cyclopentanecarboxylic acid hydroxyamide | 0.48 g, 67% | ONC(=O)C1(CCCC1)C(CCCCC1=CC=CC=C1)S(=O)(=O)C1=CC(=C(C=C1)OC)OC | C25H33NO6S
